US07109354B2
b) 6-{3-[3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-2-(4-methanesulfonyl-butyrylamino)-6-methyl-biphenyl-4-yl]-ureido}-hexanoic acid
The procedure as in Example 278: step e was followed using 6-{3-[3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-2-(4-methanesulfonyl-butyrylamino)-6-methyl-biphenyl-4-yl]-ureido}-hexanoic acid ethyl ester (48 mg, 54.3 μmol, Example 279: step a) in a MeOH/H2O (2:1) solution and 4N LiOH (54.3 μL, 0.217 mmol). The crude was taken on directly to the next step. ESI-MS (m/z): Calcd. for C36H47N5O10S4: 838.2 (M+1); found: 837.8.

reactant | 6-{3-[3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-2-(4-methanesulfonyl-butyrylamino)-6-methyl-biphenyl-4-yl]-ureido}-hexanoic acid ethyl ester | C(C)OC(CCCCCNC(=O)NC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)S(=O)(=O)C1=C(SC(=C1)C(=N)NC(=O)OC(C)(C)C)SC)NC(CCCS(=O)(=O)C)=O)=O | C38H51N5O10S4
reactant | LiOH | 0.217 mmol, 4N, 54.3 μL | [Li+].[OH-]
solvent | MeOH H2O | CO.O
product | 6-{3-[3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-2-(4-methanesulfonyl-butyrylamino)-6-methyl-biphenyl-4-yl]-ureido}-hexanoic acid | C(C)(C)(C)OC(=O)NC(C1=CC(=C(S1)SC)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1C)NC(NCCCCCC(=O)O)=O)NC(CCCS(=O)(=O)C)=O)=N | C36H47N5O10S4
